US04474754
To 1.10 g of Z-Ile-Leu-Leu-Ala-Gln-OH was added 15 ml of acetic acid solution containing 25% of hydrogen bromide, then the mixture was stirred at a room temperature for 1 hour. After completion of the reaction, dried ether was added to the reaction mixture to obtain H-Ile-Leu-Leu-Ala-Gln-OH.

reactant | Z-Ile-Leu-Leu-Ala-Gln-OH | 1.10 g | N([C@@H]([C@@H](C)CC)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](C)C(=O)N[C@@H](CCC(N)=O)C(=O)O)C(=O)OCC1=CC=CC=C1 | C34H54N6O9
reactant | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
reactant | hydrogen bromide | Br | BrH
solvent | ether | CCOCC | C4H10O
product | H-Ile-Leu-Leu-Ala-Gln-OH | N[C@@H]([C@@H](C)CC)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](C)C(=O)N[C@@H](CCC(N)=O)C(=O)O | C26H48N6O7
